US09328116B2
A mixture of 1-(4-fluorophenyl)-5-isopropylpyrazol-4-amine (1.0 g, 4.54 mmol), 3-bromotetrahydrofuran-2-one (0.462 mL, 5.0 mmol) and AlMe3 (3.4 mL, 6.8 mmol, 2 M in toluene) in DCE (50 mL) was stirred for 2 hrs at rt followed by 45 min at 50° C. The mixture was then cooled to room temperature, quenched with 1N HCl (50 mL) and extracted with EtOAc (100 mL). The organic layer was separated, dried over anhydrous sodium sulfate, concentrated in vacuo and purified by flash chromatography (SiO2, 0˜100% EtOAc/CH2Cl2 gradient elution) to give 2-bromo-N-[1-(4-fluorophenyl)-5-isopropylpyrazol-4-yl]-4-hydroxy-butanamide (1.38 g, 79%).

reactant | 1-(4-fluorophenyl)-5-isopropylpyrazol-4-amine | 4.54 mmol, 1.0 g | FC1=CC=C(C=C1)N1N=CC(=C1C(C)C)N | C12H14FN3
reactant | 3-bromotetrahydrofuran-2-one | 5.0 mmol, 0.462 mL | BrC1C(OCC1)=O | C4H5BrO2
reactant | AlMe3 | 6.8 mmol, 2 M, 3.4 mL | C[Al](C)C
solvent | DCE | 50 mL | ClCCCl | C2H4Cl2
product | 2-bromo-N-[1-(4-fluorophenyl)-5-isopropylpyrazol-4-yl]-4-hydroxy-butanamide | 1.38 g, 79% | BrC(C(=O)NC=1C=NN(C1C(C)C)C1=CC=C(C=C1)F)CCO | C16H19BrFN3O2
